US08202885B2
rac-3,3,3-Trifluoro-propionic acid (1R*,5R*,6R*)-6-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-8-phenyl-bicyclo[3.2.2]non-8-en-6-yl ester
Prepared according to procedure P1.4 in Example 1A using 3,3,3-trifluoropropionyl chloride and rac-(1R*,5R*,6R*)-6-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-8-phenyl-bicyclo[3.2.2]non-8-en-6-ol.

reactant | 3,3,3-trifluoropropionyl chloride | FC(CC(=O)Cl)(F)F | C3H2ClF3O
reactant | rac-(1R*,5R*,6R*)-6-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-8-phenyl-bicyclo[3.2.2]non-8-en-6-ol | COC1=CC=CC=2NC(=NC21)CCCN(CCC2(C1CCCC(C2)C(=C1)C1=CC=CC=C1)O)C | C29H37N3O2
product | rac-3,3,3-Trifluoro-propionic acid (1R*,5R*,6R*)-6-(2-{[3-(4-methoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-8-phenyl-bicyclo[3.2.2]non-8-en-6-yl ester | COC1=CC=CC=2NC(=NC21)CCCN(CC[C@]2([C@@H]1CCC[C@H](C2)C(=C1)C1=CC=CC=C1)OC(CC(F)(F)F)=O)C | C32H38F3N3O3
